US06399629B1
(F) (R)-2-Hydroxy-4-Phenylbutyric Acid
Trifluoroacetic acid (40 mL) was added to a solution of N-tert-butoxycarbonyl-D-homophenylalanine (4.00 g) in dichloromethane (40 mL) at 0° C. After stirring at 0†° C. for 5 min and at room temperature for 40 min, the reaction mixture was evaporated in vacuo. The residue was dissolved in 10% sulfuric acid (80 mL), and the solution was warmed up to 60° C. After removing the bath, a solution of sodium nitrite (5.93 g) in water (5 mL) was added to the solution, and the solution was stirred at 60° C. for 7 hr. Then additional solution of sodium nitrite (1.98 g) in water (1.5 mL) was added, and the resulting solution was stirred at 60° C. for 2.5 hr. After cooling, urea (6.02 g) was added to the reaction mixture, and the whole was extracted with ethyl acetate. The extract was washed with saturated sodium hydrogen carbonate. The aqueous phase was acidified with 1 N hydrochloric acid, and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and evaporated in vacuo to afford the title compound (2.51 g) as a white solid: 1H NMR (400 MHz, CDCl3) δ 1.92-2.10 (m, 1H), 2.10-2.27 (m, 1H), 2.80 (t, J=7.8 Hz, 2H), 4.20-4.32 (m, 1H), 5.12 (br s, 2H), and 7.12-7.40 (m, 5H).

reactant | Trifluoroacetic acid | 40 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-tert-butoxycarbonyl-D-homophenylalanine | 4.00 g | C(C)(C)(C)OC(=O)N[C@H](CCC1=CC=CC=C1)C(=O)O | C15H21NO4
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (R)-2-Hydroxy-4-Phenylbutyric Acid | 2.51 g | O[C@@H](C(=O)O)CCC1=CC=CC=C1 | C10H12O3
